US05654326
A solution of 450 mg (0.97 mmol) of 4-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]butanoic acid tert-butyl ester in 75 mL of methylene chloride and 1 mL of trifluoroacetic acid was stirred at room temperature for 2.25 hours and concentrated at reduced pressure. The residue was chromatographed on silica gel and eluted with EtOAc to give 250 mg (63% yield) of 4-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]butanoic acid, mp 173°-175° C.

reactant | 4-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]butanoic acid tert-butyl ester | 0.97 mmol, 450 mg | C(C)(C)(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)CC)C(C(=O)N)=O)=O | C27H32N2O5
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[[3-(2-amino-1,2-dioxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]butanoic acid | 250 mg, 63% yield | NC(C(=O)C1=C(N(C2=CC=C(C=C12)OCCCC(=O)O)CC1=CC=CC=C1)CC)=O | C23H24N2O5
